US07323456B2
2-(N-allyl-N-(3-methoxymethoxybenzyl)amino)acetic acid ethyl ester
To a solution of the compound prepared in Reference Example 2 in tetrahydrofuran (16 mL) were added triethylamine (2.0 mL) and tosyl chloride (0.72 mL) at 0° C. and the mixture was stirred for 40 minutes at 0° C. Ethanol (0.23 mL) was added to the reaction mixture, which was stirred for 20 minutes at 0° C. A solution of acetonitrile (5.0 mL), potassium carbonate (2.16 g) and N-allylglycine ethyl ester (1.68 g) in acetonitrile (18 mL) was added to the reaction mixture, which was stirred for 40 minutes at 75° C. The reaction mixture was cooled to room temperature, then poured into cold water and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=8:1→6:1) to give the title compound (1.84 g) having the following physical data.

reactant | triethylamine | 2.0 mL | C(C)N(CC)CC | C6H15N
reactant | tosyl chloride | 0.72 mL | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | potassium carbonate | 2.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-allylglycine ethyl ester | 1.68 g | C(C)OC(CNCC=C)=O | C7H13NO2
solvent | tetrahydrofuran | 16 mL | O1CCCC1 | C4H8O
solvent | acetonitrile | 18 mL | C(C)#N | C2H3N
solvent | acetonitrile | 5.0 mL | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | Ethanol | 0.23 mL | C(C)O | C2H6O
product | 2-(N-allyl-N-(3-methoxymethoxybenzyl)amino)acetic acid ethyl ester | 1.84 g | C(C)OC(CN(CC1=CC(=CC=C1)OCOC)CC=C)=O | C16H23NO4
